US06872718B1
2,5-Dimethoxy-1,4-dimethylbenzene
To a solution of 2,5-dimethyl-1,4-benzoquinone (68.1 g, 0.5 mol) in diethylether:THF (1:1, 800 ml) was added a solution of 80% sodium hydrosulfite (218 g, 1.0 mol) in water (800 ml) and the mixture was stirred for 30 minutes. The organic layer was separated, washed with saturated brine (800 ml), and then dried over anhydrous sodium sulfate. The organic layer was purified by silica gel chromatography with a small amount of silica gel and eluted with THF. The solvent was removed under reduced pressure to obtain 68.9 g as a yellow solid. The crystals were dissolved in ethanol (700 ml). To the solution were added dimethyl sulfate (189 ml, 2.0 mol) and 80% sodium hydrosulfite (21.8 g, 0.1 mol), and then added dropwise a 28% solution of sodium methoxide in methanol (482 ml, 2.5 mol) under reflux. After completion of the addition, the mixture was further stirred under reflux for 3 hours and then the solvent was removed under reduced pressure. The residue was poured into ice-cold water (2000 ml) and extracted with ethyl acetate. The organic layer was separated, washed with saturated brine and dried over magnesium sulfate, and then the solvent was removed under reduced pressure. The residue was purified by silica gel chromatography with a small amount of silica gel and eluted with ethyl acetate:hexane (1:4), and the solvent was removed under reduced pressure.

reactant | 2,5-dimethyl-1,4-benzoquinone | 0.5 mol, 68.1 g | CC=1C(C=C(C(C1)=O)C)=O | C8H8O2
reactant | sodium hydrosulfite | 1.0 mol, 218 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | dimethyl sulfate | 2.0 mol, 189 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sodium hydrosulfite | 0.1 mol, 21.8 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 2.5 mol, 482 ml | CO | CH4O
solvent | diethylether THF | 800 ml | C(C)OCC.C1CCOC1
solvent | water | 800 ml | O | H2O
solvent | ethanol | 700 ml | C(C)O | C2H6O
product | 2,5-Dimethoxy-1,4-dimethylbenzene | COC1=C(C=C(C(=C1)C)OC)C | C10H14O2
